US07618978B2
2-(S)-Dibenzylamino-3-phenyl-1-piperidin-2-(R/S)-yl-propan-1-(R)-ol
Add 2-(S)-dibenzylamino-3-phenyl-1-pyridin-2-yl-propan-1-(S)-ol (1.05 g, 2.57 mmol), 5% platinum on carbon sulfided (215 mg), glacial acetic acid (2 mL) and methanol (40 mL) and stir 18 h under 1 atmosphere of hydrogen gas. Add filter agent, filter and concentrate. Add ethyl acetate and wash with saturated aqueous sodium bicarbonate, dry (magnesium sulfate) and concentrate to give the title compound as a white foam (1.005 g, 94%).

reactant | 2-(S)-dibenzylamino-3-phenyl-1-pyridin-2-yl-propan-1-(S)-ol | 2.57 mmol, 1.05 g | C(C1=CC=CC=C1)N([C@H]([C@H](O)C1=NC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C28H28N2O
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | [Pt] | Pt
solvent | methanol | 40 mL | CO | CH4O
product | 2-(S)-Dibenzylamino-3-phenyl-1-piperidin-2-(R/S)-yl-propan-1-(R)-ol | 1.005 g, 94% | C(C1=CC=CC=C1)N(C([C@H](O)[C@H]1NCCCC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C28H34N2O
